US08648066B2
A solution of 5-bromo-2-chloro-3-nitropyridine (100 mg, 0.42 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (315 uL, 2.11 mmol) in ethanol (1 mL) was heated to 50° C. for 50 min and then cooled to rt. Water was added and the resulting aqueous mixture was extracted twice with ethyl acetate. The combined organic extracts were washed with 1 N HCl, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (gradient, 100% hexanes to 90% hexanes:10% ethyl acetate) to provide 5-bromo-2-ethoxy-3-nitropyridine (52.2 mg, 0.211 mmol, 50% yield) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 8.42 (d, 1H), 8.36 (d, 1H), 4.55 (q, 2H), 1.45 (t, 3H); MS (EI) for C7H7BrN2O3: 246, 248 (M).

reactant | 5-bromo-2-chloro-3-nitropyridine | 0.42 mmol, 100 mg | BrC=1C=C(C(=NC1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.11 mmol, 315 uL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | Water | O | H2O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 5-bromo-2-ethoxy-3-nitropyridine | 0.211 mmol, 52.2 mg, 50% yield | BrC=1C=C(C(=NC1)OCC)[N+](=O)[O-] | C7H7BrN2O3
